US05455258
To a solution of methyl 2(R)-[[4-methoxybenzenesulfonyl]amino]-3-methylbutanoate (1662 g, 5.52 mol) in dimethylformamide (10.9 L) is added 3-picolyl chloride hydrochloride (947.3 g, 5.77 mol) followed by powdered potassium carbonate (2409.9 g, 17.36 mol). The reaction mixture is stirred at room temperature for 2 days. At that time, additional quantities of 3-picolyl chloride hydrochloride (95 g) and powdered potassium carbonate (241 g) are added, and the reaction is stirred for 3 more days. The solids are then filtered away, the crude product is poured into water (22 L), and the pH is adjusted to pH=8 with 6N sodium hydroxide. This solution is extracted well with toluene (4×10 L), the combined organic layers are washed with water (2×12 L), and then with 6N hydrochloric acid (3×1600 mL). This aqueous layer is then re-adjusted to pH=8 with 6N sodium hydroxide, extracted with toluene (4×10 L), dried (Na2SO4), and the solvent is evaporated. The oil obtained is re-dissolved in ethyl acetate (12 L), cooled to 5° C., and to this is added methanolic HCl (834 mL). After stirring for 2 hours, the precipitated product is collected by filtration to give methyl 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoate hydrochloride.

reactant | methyl 2(R)-[[4-methoxybenzenesulfonyl]amino]-3-methylbutanoate | 5.52 mol, 1662 g | COC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)OC)C(C)C | C13H19NO5S
reactant | 3-picolyl chloride hydrochloride | 5.77 mol, 947.3 g | Cl.N1=CC(=CC=C1)CCl
reactant | potassium carbonate | 17.36 mol, 2409.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-picolyl chloride hydrochloride | 95 g | Cl.N1=CC(=CC=C1)CCl
reactant | potassium carbonate | 241 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 834 mL | Cl | ClH
solvent | dimethylformamide | 10.9 L | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 12 L | C(C)(=O)OCC | C4H8O2
product | methyl 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoate hydrochloride | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OC)C(C)C)CC=1C=NC=CC1 | InChI=1S/C19H24N2O5S.ClH/c1-14(2)18(19(22)26-4)21(13-15-6-5-11-20-12-15)27(23,24)17-9-7-16(25-3)8-10-17;/h5-12,14,18H,13H2,1-4H3;1H/t18-;/m1./s1
